US06774132B1
1′-Cyclopropylmethylspiro[indoline-3,3′-piperidin]-2-one
The compound was prepared according to PROCEDURE 1, Method A by reaction of spiro[indoline-3,3′-piperidin]-2-one with 3 equiv. of cyclopropanecarboxaldehyde. Yield: 90%. 13C NMR (CDCl3): δ 3.8, 4.0, 8.3, 21.4, 31.8, 48.6, 53.3, 58.4, 63.6, 109.7, 121.7, 126.1, 127.4, 134.7, 140.0, 182.2; MS (CI, CH4): m/z (rel. int.) 257 (M+1, 100).

reactant | spiro[indoline-3,3′-piperidin]-2-one | N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C12H14N2O
reactant | cyclopropanecarboxaldehyde | 3 equiv. | C1(CC1)C=O | C4H6O
reactant | CH4 | C | CH4
product | 1′-Cyclopropylmethylspiro[indoline-3,3′-piperidin]-2-one | Yield: 90% | C1(CC1)CN1CC2(CCC1)C(NC1=CC=CC=C12)=O | C16H20N2O
